US08877782B2
6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 117, 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (108 mg, 0.3 mmol) was converted, using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine, to the title compound (99 mg, 77%) which was obtained as a white solid. MS: m/e=428.1 [M+H]+.

reactant | 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.3 mmol, 108 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)Cl)=O | C18H15ClN2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(tetrahydro-pyran-4-yl)-nicotinamide | 99 mg, 77% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC2CCOCC2)C=C1)C | C22H22ClN3O4
